US07132436B2
2,4-Dichloro-N-[4-(2-chloro-5-nitrophenyl)-1,3-thiazol-2-yl]-6-methylbenzenesulfonamide
The title compound was prepared from 4-(2-chloro-5-nitrophenyl)-1,3-thiazol-2-amine hydrobromide and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white-yellow solid (18.4 mg) with purity >90%. MS (pos) m/z 478.0, 479.9.

reactant | 4-(2-chloro-5-nitrophenyl)-1,3-thiazol-2-amine hydrobromide | Br.ClC1=C(C=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)N
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-N-[4-(2-chloro-5-nitrophenyl)-1,3-thiazol-2-yl]-6-methylbenzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC=1SC=C(N1)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C16H10Cl3N3O4S2
